.SUBCKT LM337 3 1  2       
*             | |  |        |
*             |ADJ |        |
*             |   OUT       |
*            IN    |
*                          GND(REFERNCE)
*** VOLTAGE REFERENCE SECTION ***
LR 1 24 0.2709 m=1 TC1=7.8864E-4 TC2=-2.8391E-5
RR 24 5 98.2994 TC=-0.0063, 6.2251E-5
CR 1 6 3P
RCR 6 7 150K
DZR 7 5 DZR
.MODEL DZR D (IS=1E-14 RS=0 N=1 TT=0 CJO=0.1P VJ=1 M=.5 EG=1.11 XTI=3 KF=0
+ AF=1 FC=.5 BV=1.25 IBV=1E-10 ISR=0 NR=2 IKF=9.9999E+13 NBV=0.0001
+ IBVL=0 NBVL=1 TIKF=0 TBV1=2.2444E-6 TBV2=6.5556E-8 TRS1=0 TRS2=0)
RZR 7 5 1MEG
DZ1 8 7 DZ1
.MODEL DZ1 D(
+         IS = 1E-14
+         RS = 1
+          N = 1
+         TT = 0
+        CJO = 1P
+         VJ = 1
+          M = .5
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 1
+        IBV = 1E-10
+        ISR = 0
+         NR = 2
+        IKF = 9.9999E+13
+        NBV = 0.0001
+       IBVL = 0
+       NBVL = 1
+       TIKF = 0
+       TBV1 = -0.002847
+       TBV2 = 3.4722E-6
+       TRS1 = 0
+       TRS2 = 0
+ )
RQ 8 3 1.7546MEG TC=4.5212E-4,5.6515E-6
*** QUIESCENT CURRENT SECTION ***
FQ  1 3 VQ1 0.0625M
EQ1 24 100 1 7 1
VQ1 24 25 DC 0
RQ1 25 100 1 TC=-3.9528E-4,-1.1597E-5
*** ERROR AMPLIFIER ***
RIN 7 23 100K
E1  11 3 23 7 600
ROE1 9 11 10
D+ 9 13 DC
V+ 14 3 -1
E+ 13 14 1 3 1
.MODEL DC D(
+         IS = 1E-14
+         RS = 0
+          N = 1
+         TT = 0
+        CJO = 10P
+         VJ = 1
+          M = .5
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = 1E-10
+        ISR = 0
+         NR = 2
+        IKF = 9.9999E+13
+        NBV = 1
+       IBVL = 0
+       NBVL = 1
+       TIKF = 0
+       TBV1 = 0
+       TBV2 = 0
+       TRS1 = 0
+       TRS2 = 0
+ )
D- 12 9 DC
V- 12 3 DC 1
RP 9 10 151
CP 10 3 0.01U
E2 15 3 10 3 1
***
RB1 15 16 50
RB2 16 19 500 TC=-1.9327E-4,3.3434E-6
*** SHORT CIRCUIT AND FOLDBACK CURRENT SECTION ***
DSC 16 17 DMOD
ESC 17 3 POLY(1),(2,3) 2.447 -0.01
DFB 16 18 DMOD
EFB 18 3 POLY(1),(2,3) 12.5955 -1.2275 0.0457 -5.9169E-4
***
QP 20 19 3 QMOD
.MODEL QMOD NPN(
+         IS = 1E-14
+         BF = 500
+         NF = 1
+        VAF = 9.9999E+13
+        IKF = 9.9999E+13
+        ISE = 0
+         NE = 1.5
+         BR = 1
+         NR = 1
+        VAR = 9.9999E+13
+        IKR = 9.9999E+13
+        ISC = 0
+         NC = 2
+         RB = 0
+        IRB = 9.9999E+13
+        RBM = 0
+         RE = 0
+         RC = 0
+        CJE = 0
+        VJE = .75
+        MJE = .33
+         TF = 0
+        XTF = 0
+        VTF = 9.9999E+13
+        ITF = 0
+        PTF = 0
+        CJC = 0
+        VJC = .75
+        MJC = .33
+       XCJC = 1
+         TR = 0
+        CJS = 0
+        VJS = .75
+        MJS = 0
+        XTB = 0
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         NK = .5
+        ISS = 0
+         NS = 1
+        QCO = 0
+        RCO = 0
+         VO = 10
+      GAMMA = 1E-11
+       TRE1 = 0
+       TRE2 = 0
+       TRB1 = 0
+       TRB2 = 0
+       TRM1 = 0
+       TRM2 = 0
+       TRC1 = 0
+       TRC2 = 0
+ )
*** DROPOUT VOLTAGE SECTION ***
RDO 23 22 0.1
DDO1 22 21 DDO
DDO2 21 20 DDO
.MODEL DDO D(
+         IS = 1E-14
+         RS = 0
+          N = 0.9687
+         TT = 0
+        CJO = 0
+         VJ = 1
+          M = .5
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = 1E-10
+        ISR = 0
+         NR = 2
+        IKF = 9.9999E+13
+        NBV = 1
+       IBVL = 0
+       NBVL = 1
+       TIKF = 0
+       TBV1 = 0
+       TBV2 = 0
+       TRS1 = 0
+       TRS2 = 0
+ )
***
RO 23 2 0.0017 TC=-0.07894, 0.001136
DDIS 3 23 DDIS
.MODEL DDIS D(
+         IS = 1E-14
+         RS = 0
+          N = 1
+         TT = 0
+        CJO = 1PF
+         VJ = 1
+          M = .5
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = 1E-10
+        ISR = 0
+         NR = 2
+        IKF = 9.9999E+13
+        NBV = 1
+       IBVL = 0
+       NBVL = 1
+       TIKF = 0
+       TBV1 = 0
+       TBV2 = 0
+       TRS1 = 0
+       TRS2 = 0
+ )
.MODEL DMOD D(
+         IS = 1E-14
+         RS = 0
+          N = 1
+         TT = 0
+        CJO = 0
+         VJ = 1
+          M = .5
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = 1E-10
+        ISR = 0
+         NR = 2
+        IKF = 9.9999E+13
+        NBV = 1
+       IBVL = 0
+       NBVL = 1
+       TIKF = 0
+       TBV1 = 0
+       TBV2 = 0
+       TRS1 = 0
+       TRS2 = 0
+ )
.ENDS LM337